US08895547B2
Methanesulfonic acid 4-[(2,4-dimethoxybenzylsulfamoyl)methyl]benzyl ester
To a solution of N-(2,4-dimethoxybenzyl)-C-(4-hydroxymethylphenyl)methanesulfonamide (6 g) were added, at 0° C., triethylamine (4.5 ml) and, gradually, methanesulfonyl chloride in dichloromethane (2.2 ml in 50 ml). The mixture was stirred for 1.5 h and then diluted with ethyl acetate. After washing with water, 1 M hydrochloric acid and sodium chloride solution, the organic phase was dried over magnesium sulfate and concentrated. This gave the product (7 g) with a molecular weight of 429.5 g/mol (C18H23NO7S2).

reactant | N-(2,4-dimethoxybenzyl)-C-(4-hydroxymethylphenyl)methanesulfonamide | 6 g | COC1=C(CNS(=O)(=O)CC2=CC=C(C=C2)CO)C=CC(=C1)OC | C17H21NO5S
reactant | triethylamine | 4.5 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 2.2 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methanesulfonic acid 4-[(2,4-dimethoxybenzylsulfamoyl)methyl]benzyl ester | 7 g | COC1=C(CNS(=O)(=O)CC2=CC=C(COS(=O)(=O)C)C=C2)C=CC(=C1)OC | C18H23NO7S2
